US07141590B2
A. 6-Ethylsulfanyl-N-(4-fluoro-phenyl)-nicotinamide
Into a round-bottomed flask equipped with a condenser was placed 6-chloro-N-(4-fluoro-phenyl)-nicotinamide (0.20 g, 0.80 mmol), tetrahydrofuran (6 mL), and sodium thioethoxide (0.10 g, 1.2 mmol). The mixture was heated to reflux for 4 h at which time additional sodium thioethoxide (0.10 g, 1.2 mmol) was added and stirred for 2 additional hours. The reaction mixture was then cooled and poured into ice water and the solids isolated by vacuum filtration to provide 0.15 g (68%) of the product as a white solid. MS (EI) m/z 275.2 (M−H)−.

reactant | 6-chloro-N-(4-fluoro-phenyl)-nicotinamide | 0.80 mmol, 0.20 g | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8ClFN2O
reactant | sodium thioethoxide | 1.2 mmol, 0.10 g | [S-]CC.[Na+]
reactant | sodium thioethoxide | 1.2 mmol, 0.10 g | [S-]CC.[Na+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 6-Ethylsulfanyl-N-(4-fluoro-phenyl)-nicotinamide | 0.15 g, 68% | C(C)SC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C14H13FN2OS
